US04522944
2-amino-1,3,4-thiadiazole (5 g) was reacted with diethyl ethoxymethylenemalonate (26.5 g) in ethanol (20 ml) at the reflux temperature for 23 hours. After cooling the precipitate was filtered and purified with hexane to give diethyl N-(1,3,4-thiadiazol-2-yl)-aminomethylenemalonate, m.p. 107°-111° C. (10 g), which was treated with polyphosphoric acid (57.6 g; 30.8 g of 99% H3PO4 and 26.8 g of P2O5) and POCl3 (25 g) under stirring at 120° C. for 30 minutes.

reactant | 2-amino-1,3,4-thiadiazole | 5 g | NC=1SC=NN1 | C2H3N3S
reactant | diethyl ethoxymethylenemalonate | 26.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | diethyl N-(1,3,4-thiadiazol-2-yl)-aminomethylenemalonate | S1C(=NN=C1)NC=C(C(=O)OCC)C(=O)OCC | C10H13N3O4S
